US06762321B2
6.60 g (17.2 mmol) of crude N-[2-(3,4-dimethoxyphenyl)ethyl]-3-dimethylamino-2-(4-chlorophenyl)acrylamide, 80 ml of 5% hydrochloric acid and 100 ml of tetrahydrofuran were mixed and stirred at room temperature for 2 hours. Water was added to the reaction mixture, which was followed by extracted with ethyl acetate twice, washed with saturated brine twice, dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was washed with hexane and dried to give 4.46 g of N-[2-(3,4-dimethoxyphenyl)ethyl]-3-hydroxy-2-(4-chlorophenyl)acrylamide.

reactant | N-[2-(3,4-dimethoxyphenyl)ethyl]-3-dimethylamino-2-(4-chlorophenyl)acrylamide | 17.2 mmol, 6.60 g | COC=1C=C(C=CC1OC)CCNC(C(=CN(C)C)C1=CC=C(C=C1)Cl)=O | C21H25ClN2O3
reactant | hydrochloric acid | 80 ml | Cl | ClH
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | N-[2-(3,4-dimethoxyphenyl)ethyl]-3-hydroxy-2-(4-chlorophenyl)acrylamide | 4.46 g | COC=1C=C(C=CC1OC)CCNC(C(=CO)C1=CC=C(C=C1)Cl)=O | C19H20ClNO4
